US07579353B2
2,6-Dimethyl-4(1H)-pyridinone
To a solution of 2,6-dimethyl-pyran-4-one (ALDRICH, 7.44 g) in ethanol (40 ml) was added commercial 30% aqueous ammonia (140 ml). The mixture was heated to 140° C. in steel reactor for 8 h, then allowed to cool to room temperature overnight. The mixture was filtered and the ethanol removed under vacuum. The precipitate formed was isolated by filtration to afford a first crop of 1.9 g of the title compound. The filtrate was concentrated to dryness to afford a second crop of 5.2 g of the title compound, which were not further purified.

reactant | 2,6-dimethyl-pyran-4-one | 7.44 g | CC=1OC(=CC(C1)=O)C | C7H8O2
reactant | ammonia | 140 ml | N | H3N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2,6-Dimethyl-4(1H)-pyridinone | 1.9 g | CC=1NC(=CC(C1)=O)C | C7H9NO
